.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' typical

* 1.2-V MOS-only voltage reference (externally biased self-cascode)
* VREF = VGS(XMT) + VDS(XMB); XMB is common-gate triode supplying the
* positive-tempco term against the negative-tempco VGS(XMT) term.
* IBIAS pin convention: pin delivers IBIAS out to a generator tied to VSS.
.subckt vref_1v2 VDD VSS VREF IBIAS
XM1 IBIAS IBIAS VDD VDD pfet_03v3 W=2u L=8u nf=1
XM2 VREF  IBIAS VDD VDD pfet_03v3 W=2u L=8u nf=1
XMT VREF  VREF  VMB  VSS nfet_03v3 W=9.6u L=0.35u nf=12
XMB VMB   VREF  VSS  VSS nfet_03v3 W=9.5u L=7.45u nf=1
.ends

Vsupply0 VDD 0 3.3
Vsupply1 VSS 0 0.0
C_load_VREF VREF 0 1p
IBIN IBIAS VSS DC 10u
Xdut VDD VSS VREF IBIAS vref_1v2

.control
op
print v(VDD)
print v(VSS)
print v(VREF)
print v(IBIAS)
.endc
.end
